US07265144B2
Step 2: Preparation of N-[(1Z)-N-hydroxyethanimidoyl]-5-methoxy-2-[(3-methyl-1-phenyl-1H-pyrazol-5-yl)amino]benzamide
To a mixture of 2-[(3-methyl-1-phenyl-1H-pyrazol-5-yl)amino]benzoic acid (400 mg, 1.04 mmol) (prepared by the sequence of Buchwald-type coupling and hydrolysis, similar to Examples 108 and 109), HOAT (186 mg, 1.39 mmol), and EDCI (263 mg, 1.39 mmol) in DMF (7 mL) at −20° C. was added triethylamine (0.45 mL, 3.25 mmol). After stirring at that temperature for 15 min, N-hydroxy-acetamidine (305 mg, 2.78 mmol) was added, and the temperature was slowly raised to rt. Stirring was continued for 16 h, the solvent was evaporated in vacuo and the residue was partitioned between water and EtOAc. The layers were separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed successively with 5% citric acid, saturated aqueous Na2CO3 solution and brine, dried (MgSO4), filtered, and concentrated to give 147 mg of a crude solid. This solid was used in the next step with no further purification. ES-MS m/z 380.1 (MH+); HPLC RT (min) 2.53.

reactant | 2-[(3-methyl-1-phenyl-1H-pyrazol-5-yl)amino]benzoic acid | 1.04 mmol, 400 mg | CC1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | C17H15N3O2
reactant | HOAT | 1.39 mmol, 186 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 1.39 mmol, 263 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 3.25 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | N-hydroxy-acetamidine | 2.78 mmol, 305 mg | ONC(C)=N | C2H6N2O
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
product | N-[(1Z)-N-hydroxyethanimidoyl]-5-methoxy-2-[(3-methyl-1-phenyl-1H-pyrazol-5-yl)amino]benzamide | 147 mg | O\N=C(\C)/NC(C1=C(C=CC(=C1)OC)NC1=CC(=NN1C1=CC=CC=C1)C)=O | C20H21N5O3
